US08110585B2
7-fluoro-2-methyl-2H-indazole-4-carbaldehyde
To a solution of dimethyl sulfoxide (4.30 mL, 60.5 mmol) in dichloromethane (50 mL) was added oxalyl chloride (2.65 mL, 30.3 mmol) at −78° C., and the mixture was stirred for 30 min. To the reaction mixture was added a solution of (7-fluoro-2-methyl-2H-indazol-4-yl)methanol (1.82 g, 10.1 mmol) in dichloromethane (51 mL), and the mixture was stirred for 2 hr. To the reaction mixture was added triethylamine (12.8 mL, 91.0 mmol) at −78° C., and the mixture was stirred for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/3) to give the title compound (1.60 g, yield 89%).

reactant | dimethyl sulfoxide | 60.5 mmol, 4.30 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 30.3 mmol, 2.65 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (7-fluoro-2-methyl-2H-indazol-4-yl)methanol | 10.1 mmol, 1.82 g | FC1=CC=C(C2=CN(N=C12)C)CO | C9H9FN2O
reactant | triethylamine | 91.0 mmol, 12.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 51 mL | ClCCl | CH2Cl2
product | 7-fluoro-2-methyl-2H-indazole-4-carbaldehyde | 1.60 g, yield 89% | FC1=CC=C(C2=CN(N=C12)C)C=O | C9H7FN2O
